data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2729,3033,[CH3:18][O:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28](=[O:29])[O:30][CH3:31])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([Cl:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([Cl:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[NH:23][C:24]2([C:25]([CH3:26])=[O:27])[C:28](=[O:29])[O:30][CH3:31],water,298.15,26.4197226010054,-17.053492623219938
1702,1883,[CH3:1][O:2][CH:3]1[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1.[CH:13]#[N+:14][CH-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][CH:3]1[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:14]=[CH:13]2,water,298.15,11.006707434626724,-73.59861424119234
3444,3914,[CH3:6][CH:7]=[NH+:8][C-:9]([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[NH:16][CH3:17].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[CH:7]([CH3:6])[NH:8][C:9]1([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[NH:16][CH3:17],water,298.15,39.04469332207996,20.111590974401537
5253,5958,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,38.52025478459947,3.2906310368348533
887,960,[CH3:1][C:2](=[O:3])/[C:4]([C:5]#[N:6])=[C:7](\[C:8]#[N:9])[C:10]([CH3:11])=[O:12].[N:13]#[C:14][CH-:15][NH+:16]=[C:17]([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2](=[O:3])[C@@:4]1([C:5]#[N:6])[C@:7]([C:8]#[N:9])([C:10]([CH3:11])=[O:12])[CH:15]([C:14]#[N:13])[NH:16][C:17]1([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,3.985094111161028,-5.894343019520576
2400,2665,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][C:23](=[O:24])[CH-:25][N+:26]([CH3:27])=[C:28]([CH3:29])[C:30]([CH3:31])=[O:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[CH:25]([C:23]([CH3:22])=[O:24])[N:26]([CH3:27])[C:28]2([CH3:29])[C:30]([CH3:31])=[O:32],water,298.15,32.71488837988033,-26.16937178379085
211,231,[CH3:11][O:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[N:18]=[N:17][C:15]2([C:13]([O:12][CH3:11])=[O:14])[CH3:16],water,298.15,28.64890206982247,-14.139875357122452
4184,4787,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([C:20]([CH3:21])=[O:22])[O:15][C:16]2([CH3:17])[C:18]#[N:19],water,298.15,16.26548156507462,-31.21569431130361
1538,1698,[CH3:14][O:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[N-:24][C:25]([CH3:26])=[O:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([CH3:7])=[O:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[N:24]([C:25]([CH3:26])=[O:27])[N:22]([CH3:23])[C:18]2([C:16]([O:15][CH3:14])=[O:17])[C:19]([CH3:20])=[O:21],water,298.15,14.75541554327052,-22.035924048663244
4681,5337,[CH3:9][NH:10][C:11](=[O:12])[CH-:13][O+:14]=[C:15]([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[CH:13]([C:11]([NH:10][CH3:9])=[O:12])[O:14][C:15]1([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,9.714842098309989,-46.29332430656317
